US07163947B2
A suspension of 7-bromo-N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (1.71 g, 4.72 mmol) in 34 mL of 1-propanol was placed under an atmosphere of nitrogen. The mixture was treated with triethylamine (1.25 mL, 9.44 mmol) and then the headspace of the flask was evacuated and back-filled with nitrogen (3×). The reaction mixture was treated with potassium vinylfluoroborate (0.695 g, 5.19 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.069 g, 0.094 mmol) and the head-space purged and backfilled as before. The reaction was heated to 100° C. After 16 h, the reaction mixture was cooled to ambient temperature and concentrated under reduced pressure. The residue was dissolved in 50 mL of CHCl3 and washed with 5% Na2CO3 solution (15 mL). There was a thick emulsion that did not fully separate. The organic portion was washed with H2O (15 mL) resulting in another slowly separating emulsion. The combined aqueous washes were back extracted with CHCl3 (15 mL). The combined organic extracts were washed with brine (15 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield an orange solid. The solid was purified by chromatography (SiO2, 20% (80:18:2 CHCl3:MeOH:NH4OH) in CHCl3) to yield N1-isopropyl-2-propyl-7-vinyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.92 g) as a tan solid.

reactant | 7-bromo-N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 4.72 mmol, 1.71 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3NC(C)C)CCC | C16H20BrN5
reactant | triethylamine | 9.44 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
solvent | 1-propanol | 34 mL | C(CC)O | C3H8O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.094 mmol, 0.069 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N1-isopropyl-2-propyl-7-vinyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.92 g | C(C)(C)NN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=C)N)CCC | C18H23N5
